US07494992B2
Preparation 109: 1-(phenylmethyl)piperidin-4-yl butylcarbamate
1-(Phenylmethyl)piperidin-4-ol (10 g, 52.2 mmol) was stirred in dioxane (90 ml) at room temperature. N-butyl isocyanate (5.0 g, 52.2 mmol) in dioxane (10 ml) was added and the reaction mixture was heated under reflux for 24 h. Water (20 ml) was added and the reaction mixture was concentrated in vacuo to give a brown oil. The crude product was partitioned between diethyl ether and water and the organic extracts were dried (MgSO4) to give the title compound as an oil (14 g, 92%).

reactant | 1-(Phenylmethyl)piperidin-4-ol | 52.2 mmol, 10 g | C1(=CC=CC=C1)CN1CCC(CC1)O | C12H17NO
reactant | N-butyl isocyanate | 52.2 mmol, 5.0 g | CCCCN=C=O | C5H9NO
reactant | Water | 20 ml | O | H2O
solvent | dioxane | 90 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1-(phenylmethyl)piperidin-4-yl butylcarbamate | 14 g, 92% | C(CCC)NC(OC1CCN(CC1)CC1=CC=CC=C1)=O | C17H26N2O2
